US09315521B2
2-{[(3-ethylpyridin-4-yl)methyl]sulfanyl)-6-methylpyrimidin-4-ol (100 mg, 383 μmol) was stirred in methanol (20 mL) and a solution of 4 N HCl in dioxane (145 μL, 574 μmol) was added dropwise at 0° C. The mixture was stirred for 15 minutes at room temperature. The solvent was removed by evaporation, and the residue was triturated with diethyl ether and dried in vacuo to afford 2-{[(3-ethylpyridin-4-yl)methyl]sulfanyl)-6-methylpyrimidin-4-ol hydrochloride (110 mg, 97% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.28 (t, J=7.5 Hz, 3H), 2.15 (s, 3H), 2.98 (q, J=7.5 Hz, 2H), 4.62 (s, 2H), 6.08 (s, 1H), 8.12 (d, J=6.0 Hz, 1H), 8.70 (d, J=6.0 Hz, 1H), 8.77 (s, 1H); LRMS (ES+) m/z 262 (100%, M+1).

reactant | 2-{[(3-ethylpyridin-4-yl)methyl]sulfanyl)-6-methylpyrimidin-4-ol | 383 μmol, 100 mg | C(C)C=1C=NC=CC1CSC1=NC(=CC(=N1)O)C | C13H15N3OS
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 574 μmol, 145 μL | O1CCOCC1 | C4H8O2
solvent | methanol | 20 mL | CO | CH4O
product | 2-{[(3-ethylpyridin-4-yl)methyl]sulfanyl)-6-methylpyrimidin-4-ol hydrochloride | 110 mg, 97% yield | Cl.C(C)C=1C=NC=CC1CSC1=NC(=CC(=N1)O)C | InChI=1S/C13H15N3OS.ClH/c1-3-10-7-14-5-4-11(10)8-18-13-15-9(2)6-12(17)16-13;/h4-7H,3,8H2,1-2H3,(H,15,16,17);1H
